US07932271B2
3,6-Dichloro-2-[(4-chlorophenylsulfonyl)(pyridin-4-yl)methyl]pyridine
To a methylene chloride (10 ml) solution of the (3,6-dichloropyridin-2-yl)(pyridin-4-yl)methanol (161 mg, 0.631 mmol) obtained in Referential Example 25 were added triethylamine (208 μl, 1.89 mmol) and thionyl chloride (138 μl, 1.89 mmol). The resulting mixture was stirred at room temperature for 4 hours, followed by concentration under reduced pressure. To the residue thus obtained was added ethyl acetate. The resulting mixture was washed sequentially with a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in acetonitrile (10 ml). To the resulting solution were added 4-chlorobenzenethiol (137 mg, 0.947 mmol) and potassium carbonate (131 mg, 0.947 mmol). Under a nitrogen atmosphere, the resulting mixture was stirred at room temperature for 2 days and then, stirred at 60° C. for 4 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added ethyl acetate. The resulting mixture was washed sequentially with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash chromatography. The fraction obtained from the 40% ethyl acetate/hexane eluate was concentrated under reduced pressure. The residue thus obtained was dissolved in methanol (10 ml). To the resulting solution were added 30% aqueous hydrogen peroxide (3 ml) and hexaammonium heptamolybdate tetrahydrate (73 mg). After the resulting mixture was stirred at room temperature for 5 hours, methanol was distilled off under reduced pressure. To the solution thus obtained was added a saturated aqueous solution of sodium bicarbonate, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash chromatography. The fraction obtained from the methanol:methylene chloride=1:80 eluate was concentrated under reduced pressure to give the title compound (49 mg, 0.118 mmol, 19%) as a white solid.

reactant | (3,6-dichloropyridin-2-yl)(pyridin-4-yl)methanol | 0.631 mmol, 161 mg | ClC=1C(=NC(=CC1)Cl)C(O)C1=CC=NC=C1 | C11H8Cl2N2O
reactant | triethylamine | 1.89 mmol, 208 μl | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.89 mmol, 138 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chlorobenzenethiol | 0.947 mmol, 137 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 0.947 mmol, 131 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 3 ml | OO | H2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3,6-Dichloro-2-[(4-chlorophenylsulfonyl)(pyridin-4-yl)methyl]pyridine | 0.118 mmol, 49 mg, 19% | ClC=1C(=NC(=CC1)Cl)C(C1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
